US08703795B2
a) Thiophene-2,3-dicarboxylic acid
A solution of 3-Methyl-thiophene-2-carboxylic acid (0.5 mol; 71.09 g) in aqueous 15% NaOH (2300 ml) was heated to 75-80° C. before KMnO4 (0.42 mol; 67.05 g) was added with stirring. After stirring at 75-80° C. for 30 min another portion of KMnO4 (0.42 mol; 67.05 g) was added. This was repeated another three times. After adding the last portion of KMnO4, stirring was continued at 75-80° C. for 30 min before the mixture was refluxed for 3 h with stirring. The hot mixture was submitted to vacuum filtration and the filtrate was acidified by addition on conc. aqueous HCl. The formed precipitate was separated, washed with water and dried in vacuo at 80° C. to give the title compound as a slightly yellowish solid (43.9 g). 1H NMR (d6-DMSO, 200 MHz): δ=7.78 (d, 1H), 7.37 (d, 1H).

reactant | 3-Methyl-thiophene-2-carboxylic acid | 0.5 mol, 71.09 g | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | KMnO4 | 0.42 mol, 67.05 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | KMnO4 | 0.42 mol, 67.05 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaOH | 2300 ml | [OH-].[Na+]
product | Thiophene-2,3-dicarboxylic acid | S1C(=C(C=C1)C(=O)O)C(=O)O | C6H4O4S
